US04284484
Preparation of 1,3,5,7-Tetraaminoadamantane Tetrahydrochloride
1,3,5,7-Tetraacetamidoadamantane tetrahydrate (2.0 g=4.6 mmoles) was dissolved in 18% hydrochloric acid (30 ml of concentrated hydrochoric acid diluted with 30 ml of water) and the solution was refluxed for three hours. The crystalline product thus obtained was separated from the mixture by filtration, washed with acetone and dried. 1.29 g of product, mp.>360° C., in agreement with that reported by H. Stetter and C. Wulff, Chem. Ber., 93,1366 (1960), corresponding to an 82% yield, were obtained. Analysis. calculated for C10H20H4 .4HCl: C, 35.11; H, 7.07; N, 16.38. Found, C, 34.45; H, 7.17; N, 16.01.

reactant | 1,3,5,7-Tetraacetamidoadamantane tetrahydrate | 4.6 mmoles, 2.0 g | O.O.O.O.C(C)(=O)NC12CC3(CC(CC(C1)(C3)NC(C)=O)(C2)NC(C)=O)NC(C)=O
reactant | hydrochloric acid | 30 ml | Cl | ClH
product | 1,3,5,7-Tetraaminoadamantane Tetrahydrochloride | 82% yield | Cl.Cl.Cl.Cl.NC12CC3(CC(CC(C1)(C3)N)(C2)N)N | InChI=1S/C10H20N4.4ClH/c11-7-1-8(12)4-9(13,2-7)6-10(14,3-7)5-8;;;;/h1-6,11-14H2;4*1H
